US07723352B2
6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one
4-methoxy-N-methyl-2-(2-oxo-1-phenylethyl)benzamide (100 mg) was dissolved in 2 mL of phosphoric acid with gentle heating. After a solution was obtained, the reaction was partitioned between water and EtOAc. The organic solution was dried (Na2SO4) and concentrated. Flash chromatography (25% EtOAc in CH2Cl2) provided the titled compound as a white solid.

reactant | 4-methoxy-N-methyl-2-(2-oxo-1-phenylethyl)benzamide | 100 mg | COC1=CC(=C(C(=O)NC)C=C1)C(C=O)C1=CC=CC=C1 | C17H17NO3
solvent | phosphoric acid | 2 mL | P(O)(O)(O)=O | H3O4P
product | 6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | COC=1C=C2C(=CN(C(C2=CC1)=O)C)C1=CC=CC=C1 | C17H15NO2
